US04906755
A stirred mixture of 1-methyl-3-indazolylcarboxylic acid (0.31 g), thionyl chloride (2 ml) and chloroform (10 ml) was refluxed for 2 hours and the solvent was evaporated to give a residue of 1-methyl-3-indazolylcarbonyl chloride.

reactant | 1-methyl-3-indazolylcarboxylic acid | 0.31 g | CN1N=C(C2=CC=CC=C12)C(=O)O | C9H8N2O2
reactant | thionyl chloride | 2 ml | S(=O)(Cl)Cl | Cl2OS
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-methyl-3-indazolylcarbonyl chloride | CN1N=C(C2=CC=CC=C12)C(=O)Cl | C9H7ClN2O
